US04451476
A solution of 8.0 g of 5-[7-(4-chlorocarbonylphenoxy)heptyl]-3-methylisoxazole in 50 ml of dry toluene was saturated with dimethylamine gas over a 30 minute period. The reaction mixture was concentrated in vacuo, and the residue was dissolved in ether. The ether solution was boiled, treated with petroleum ether until turbid and cooled to produce 6.0 g of N,N-dimethyl-4-[7-(3-methyl-5-isoxazolyl)heptyloxy]benzamide, m.p. 58°-59° C.; MIC vs. polio-2 virus in vitro=2.5 μg/ml.

reactant | 5-[7-(4-chlorocarbonylphenoxy)heptyl]-3-methylisoxazole | 8.0 g | ClC(=O)C1=CC=C(OCCCCCCCC2=CC(=NO2)C)C=C1 | C18H22ClNO3
reactant | dimethylamine | CNC | C2H7N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-4-[7-(3-methyl-5-isoxazolyl)heptyloxy]benzamide | 6.0 g | CN(C(C1=CC=C(C=C1)OCCCCCCCC1=CC(=NO1)C)=O)C | C20H28N2O3
